US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-1-yl-acetic acid
10% Palladium carbon (300 mg) was added to a suspension of 1-benzyloxycarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (3.0 g) in methanol (100 ml), the mixture was stirred for 30 minutes under hydrogen atmosphere. The reaction mixture was filtrated and the filtrate was concentrated under reduced pressure. Isopropyl ether was added to the residue for trituration and filtrated, to thereby obtain 2.46 g of the title compound (Yield: 99.6%) as pale yellow powder.

reactant | 1-benzyloxycarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 3.0 g | C(C1=CC=CC=C1)OC(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O | C28H35N3O6
solvent | methanol | 100 ml | CO | CH4O
catalyst | Palladium carbon | 300 mg | [C].[Pd]
product | 2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-1-yl-acetic acid | 2.46 g, Yield: 99.6% | O=C1C(CN(C2=C(N1CC(=O)O)C=CC=C2)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C | C21H29N3O6
